US07163937B2
Preparation A3, Step 3: (1R,2S,5R)-Tert-butyl 2-((S)-2-(benzyloxycarbonylamino)-4-(methylthio)butanamido)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate (5.1 g) was dissolved in iodomethane (40 mL). The resulting solution was stirred at rt for 12 h before being concentrated in vacuo. The residue was dissolved in methylene chloride, and the resulting solution was concentrated; this was repeated to afford the salt. This material was dissolved in DMF (30 mL) and the solution was charged with Cs2CO3 (6.6 g). After 12 h, the reaction was partitioned between EtOAc and brine. The organic phase was dried (MgSO4), filtered, and concentrated. The resulting residue was purified by flash chromatography to afford (1R,2S,5R)-tert-butyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate (2.0 g). MS found: (M+H)+=458.6.

reactant | (1R,2S,5R)-Tert-butyl 2-((S)-2-(benzyloxycarbonylamino)-4-(methylthio)butanamido)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 5.1 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)=O)CCSC | C25H35N3O6S
reactant | Cs2CO3 | 6.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | iodomethane | 40 mL | IC | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (1R,2S,5R)-tert-butyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 2.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)=O)=O | C24H31N3O6
